US08492559B2
Stage 4: tert-Butyl 2-(4-(dimethylamino)-4-(thiophen-2-yl)piperidin-1-yl)ethylcarbamate
11.1 g (1.5 eq.) tert-butyl-2-bromoethylcarbamate dissolved in 65 ml THF and 9.19 g (2 eq.) potassium carbonate were added to a solution of 7 g (1 eq.) N,N-dimethyl-4-(thiophen-2-yl)piperidin-4-amine in 40 ml THF. The reaction mixture was heated for 6 h at 70° C. The reaction course was monitored by thin-layer chromatography (20% MeOH/CHCl3). Once the conversion was complete, the solvent was distilled off completely, the residue mixed with 200 ml water and the aqueous phase extracted with 20% IPA/CHCl3. The combined organic phases were dried over Na2SO4. Following removal of the solvent under reduced pressure, the residue was purified by column chromatography (silica gel; 10% MeOH/CHCl3). 9 g (76%) of product were obtained in the form of an oil.

reactant | tert-butyl-2-bromoethylcarbamate | 11.1 g, 1.5 eq. | C(C)(C)(C)OC(NCCBr)=O | C7H14BrNO2
reactant | potassium carbonate | 9.19 g, 2 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethyl-4-(thiophen-2-yl)piperidin-4-amine | 7 g, 1 eq. | CN(C1(CCNCC1)C=1SC=CC1)C | C11H18N2S
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | THF | 65 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | tert-Butyl 2-(4-(dimethylamino)-4-(thiophen-2-yl)piperidin-1-yl)ethylcarbamate | 9 g, 76% | CN(C1(CCN(CC1)CCNC(OC(C)(C)C)=O)C=1SC=CC1)C | C18H31N3O2S
